US05498725
In a one liter glass reactor equipped with a thermometer, a cooling apparatus and a stirrer, 3-methyl-3-butenenitrile (37.0 g, 0.456 mol) and nitromethane (557.0 g, 9.125 mol) were charged. Then, 1,8-diazabicyclo[5.4.0]-7-undecene (13.9 g, 0.091 mol) was dropwise added over a period of 5 minutes at room temperature while stirring. After the dropwise addition, the mixture was heated and refluxed at 103° C. for 13.5 hours. After cooling the mixture to room temperature, unreacted nitromethane was evaporated off under reduced pressure. To the residue, dichloromethane (300 g) and 5% sulfuric acid (300 g) were added and stirred. Thereafter, the mixture was phase separated to obtain a dichloromethane layer. To the aqueous layer, dichloromethane (300 g) was added and the mixture was phase separated to obtain a dichloromethane layer. Two dichloromethane layers were combined and washed with water (300 g). After drying the dichloromethane solution over anhydrous sodium sulfate, dichloromethane was evaporated off under reduced pressure to obtain brown crystal 3,3-dimethyl-4-nitrobutanenitrile (60.7 g), a purity of which was 92.0%. Its yield was 86.1% based on 3-methyl-3-butenenitrile.

reactant | 3-methyl-3-butenenitrile | 0.456 mol, 37.0 g | CC(CC#N)=C | C5H7N
reactant | nitromethane | 9.125 mol, 557.0 g | [N+](=O)([O-])C | CH3NO2
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.091 mol, 13.9 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 300 g | ClCCl | CH2Cl2
product | 3,3-dimethyl-4-nitrobutanenitrile | 60.7 g, yield was 86.1% | CC(CC#N)(C[N+](=O)[O-])C | C6H10N2O2
